US07759337B2
Step 3: N-cyclopropyl-3-(1-(2,4-dimethylphenyl)phthalazin-6-yl)-4-methylbenzamide
A mixture of 6-chloro-1-(2,4-dimethylphenyl)phthalazine (150 mg, 558 μmol), N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (437 mg, 1450 μmol), 2-(dicyclohexylphosphino)-2′-methylbiphenyl (18.3 mg, 50.2 μmol, Strem), Pd2(dba)3 (15.3 mg, 16.7 μmol, Strem), and potassium carbonate (231 mg, 1674 μmol) in Dioxane:H2O=4:1 (5 mL) was heated to 80° C. for 18 h. After cooling to room temperature, the mixture was diluted with MeOH and concentrated over SiO2. The residue was purified with column chromatography (MeOH/CH2Cl2=0-4%). The residue was purified with reverse-phase chromatography (Phenomenex Synergi 4m Max RP 80 A column, 150×21 mm, 20 mL/min, 10-95% CH3CN/H2O, 0.1% TFA, 10.5 min gradient). Yield: 113 mg (50%). MS (ESI, pos. ion) m/z: 408 (M+1).

reactant | 6-chloro-1-(2,4-dimethylphenyl)phthalazine | 558 μmol, 150 mg | ClC=1C=C2C=NN=C(C2=CC1)C1=C(C=C(C=C1)C)C | C16H13ClN2
reactant | N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 1450 μmol, 437 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C17H24BNO3
reactant | 2-(dicyclohexylphosphino)-2′-methylbiphenyl | 50.2 μmol, 18.3 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C1CCCCC1 | C25H33P
reactant | potassium carbonate | 1674 μmol, 231 mg | C([O-])([O-])=O.[K+].[K+]
solvent | Dioxane | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
catalyst | Pd2(dba)3 | 16.7 μmol, 15.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | H2O | O | H2O
product | N-cyclopropyl-3-(1-(2,4-dimethylphenyl)phthalazin-6-yl)-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)C1=C(C=C(C=C1)C)C)=O | C27H25N3O
